US08012277B2
Synthesis of Guanidinium Glycolate
Glycolic acid (3.0 g, 39.45 mmol) was dissolved in 15 ml of distilled water. Guanidine carbonate (3.55 g, 19.72 mmol) was added in portions at room temperature (carbon dioxide gas was evolved) and the reaction was stirred at room temperature for 4 hours. The water was removed in vacuo with heating to approximately 90° C. The product was isolated as a white solid.

reactant | Glycolic acid | 39.45 mmol, 3.0 g | C(CO)(=O)O | C2H4O3
reactant | Guanidine carbonate | 19.72 mmol, 3.55 g | C(O)(O)=O.NC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 15 ml | O | H2O
product | Guanidinium Glycolate | C(CO)(=O)[O-].NC(=[NH2+])N | InChI=1S/C2H4O3.CH5N3/c3-1-2(4)5;2-1(3)4/h3H,1H2,(H,4,5);(H5,2,3,4)
